US04147864
A solution of 0.54 g (0.7 mmol) of 2-[4-(p-toluenesulphonylthio)-3-(α-tert.butoxycarbonylamino-α-phenylacetylamino)-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester in 20 ml of methylene chloride/methanol, 1:1, is stirred for 15 minutes with an excess of a solution of diazomethane in ether at 0° C. and is then concentrated by evaporation in vacuo. Preparative layer chromatography of the residue on silica gel, using toluene/ethyl acetate, 1:1, as the running agent, and elution of the zone which is visible in UV light gives 2-[4-(p-toluenesulphonylthio)-3-(α-tert.butoxycarbonylamino-α-phenylacetylamino)-2-oxoazetidin-1-yl]-3-methoxy-crotonic acid diphenylmethyl ester, which is recrystallised from methylene chloride/diethyl ether/hexane.

reactant | 2-[4-(p-toluenesulphonylthio)-3-(α-tert.butoxycarbonylamino-α-phenylacetylamino)-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | 0.7 mmol, 0.54 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(C(C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O)=O | C40H41N3O9S2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride methanol | 20 ml | C(Cl)Cl.CO
solvent | ether | CCOCC | C4H10O
product | 2-[4-(p-toluenesulphonylthio)-3-(α-tert.butoxycarbonylamino-α-phenylacetylamino)-2-oxoazetidin-1-yl]-3-methoxy-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/OC)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(C(C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O)=O | C41H43N3O9S2
